US04055595
A stirred suspension of 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionic acid (750 mg.) in water (10 ml.) is treated dropwise at room temperature with 0.4 N-aqueous sodium hydroxide solution (4.50 ml.). The resultant mixture is warmed briefly to 35° C., cooled, and filtered. The filtrate is washed with ether, refiltered, then evaporated in vacuo. The solid residue is dried in vacuo at 100° C. for 12 hours giving sodium 2-[4-(4-chlorophenyl)-benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionate sesquihydrate (0.74 g.) as a solid, which does not melt below 300° C.

reactant | 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionic acid | 750 mg | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)O)(C(F)(F)F)C(F)(F)F)C=C1 | C17H11ClF6O3
reactant | sodium hydroxide | 4.50 ml | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | sodium 2-[4-(4-chlorophenyl)-benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionate sesquihydrate | 0.74 g | O.ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)[O-])(C(F)(F)F)C(F)(F)F)C=C1.[Na+].O.O.[Na+].ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)[O-])(C(F)(F)F)C(F)(F)F)C=C1 | InChI=1S/2C17H11ClF6O3.2Na.3H2O/c2*18-13-7-5-12(6-8-13)11-3-1-10(2-4-11)9-27-15(14(25)26,16(19,20)21)17(22,23)24;;;;;/h2*1-8H,9H2,(H,25,26);;;3*1H2/q;;2*+1;;;/p-2
